US07759337B2
Step B: 6-Bromo-1-(4-(methylsulfonyl)piperazin-1-yl)phthalazine
6-Bromo-1-chlorophthalazine (18 mg, 74 umol) and 1-(methylsulfonyl)piperazine (91 mg, 554 μmol) were dissolved in dichloromethane/methanol when the reaction mixture was concentrated by evaporation under a nitrogen line. The concentrate was heated to 120° C. for 6 h to give the title compound. MS (ES+): 373 (M+H)+.

reactant | 6-Bromo-1-chlorophthalazine | 74 umol, 18 mg | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | 1-(methylsulfonyl)piperazine | 554 μmol, 91 mg | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
solvent | dichloromethane methanol | ClCCl.CO
product | 6-Bromo-1-(4-(methylsulfonyl)piperazin-1-yl)phthalazine | BrC=1C=C2C=NN=C(C2=CC1)N1CCN(CC1)S(=O)(=O)C | C13H15BrN4O2S
